US04797486
In a 50 ml round bottom flask equipped with a mechanical stirrer and a reflux condenser, a mixture of 7.0 g (0.036 mole) of methyl 3-amino-5-chloro-2-thiophenecarboxylate and 15 ml of formamide was heated at 205° C. for 7 hours. Upon cooling to room temperature, the reaction solution afforded a precipitate which was filtered: yield about 3.3 g. The crude tan solid was taken up in hot methanol, treated with activated carbon, and filtered. Upon cooling to room temperature, the filtrate afforded yellow crystals of 6-chlorothieno[3,2-d]pyrimidin-4(3H)-one: m.p. 238°-239° C.; yield 2.5 g (36%); ir (KBr) 3427 cm-1, 1688, 1659, 1600, 1510, 1476, 1410 among others; 1H-nmr (CDCl3 +some trifluoroacetic acid) delta 7.5 ppm (s, 1H), 9.1 (s, 1H); mass spectrum 186 (molecular ion and parent peak with the expected isotope pattern), 159 (-27), 131 and others.

reactant | methyl 3-amino-5-chloro-2-thiophenecarboxylate | 0.036 mole, 7.0 g | NC1=C(SC(=C1)Cl)C(=O)OC | C6H6ClNO2S
reactant | formamide | 15 ml | C(=O)N | CH3NO
product | 6-chlorothieno[3,2-d]pyrimidin-4(3H)-one | ClC1=CC=2N=CNC(C2S1)=O | C6H3ClN2OS
